US07820673B2
To a solution of ethyl (formylamino)(tetrahydro-2H-pyran-4-yl)acetate (M. J. Burk et al., J. Am. Chem. Soc., 117, 9375-9376 (1995); 0.30 g) in ethanol (7 ml) was added a 1 N aqueous sodium hydroxide solution (2.8 ml), and mixed at 80° C. for 40 minutes. The reaction mixture was neutralized by adding 1 N hydrochloric acid, and then water was removed by azeotropy with toluene to obtain (formylamino)(tetrahydro-2H-pyran-4-yl)acetic acid as a crude product. In the same manner as in Example 50a), 2-(4-(5-methyl-3-oxo-1H-imidazo[1,5-c]imidazol-2(3H)-yl)-1-piperazinyl)-2-oxo-1-tetrahydro-2H-pyran-4-ylethylformamide was obtained from this carboxylic acid as a crude product. The product was dissolved in methanol (7 ml) and diethyl ether(14 ml). A 4 N solution of hydrogen chloride in ethyl acetate (3.5 ml) was added and mixed at room temperature for 4 hours, and the solvent was distilled off under reduced pressure. The residue was dissolved in acetonitrile (14 ml), triethylamine (0.39 ml) and 4-chlorophenyl isocyanate (0.21 g) were added thereto, and mixed at room temperature for 15 hours. The solvent was distilled off under reduced pressure, and the residue was dissolved in ethyl acetate. The ethyl acetate solution was washed with an aqueous sodium hydrogen carbonate solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified with basic silica gel column (ethyl acetate to ethyl acetate/methanol=10/1) to obtain the title compound as colorless powder (0.03 g, 5%).

reactant | ethyl (formylamino)(tetrahydro-2H-pyran-4-yl)acetate | 0.30 g | C(=O)NC(C(=O)OCC)C1CCOCC1 | C10H17NO4
reactant | sodium hydroxide | 1 N, 2.8 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | (formylamino)(tetrahydro-2H-pyran-4-yl)acetic acid | C(=O)NC(C(=O)O)C1CCOCC1 | C8H13NO4
